US04436748
A mixture of 7.2 g of ethyl{ [7-chloro-3-(2-fluorophenyl)benzo[b]thien-6-yl]oxy}acetate, 150 ml of 20% sodium hydroxide solution and 150 ml of 95% ethanol is stirred under reflux for 90 minutes. The reaction mixture is evaporated under reduced pressure, 200 ml of water is added and the solution is acidified with concentrated hydrochloric acid. The mixture is extracted with four 200 ml portions of ether. The combined organic extracts are dried over anhydrous magnesium sulfate, filtered and concentrated to give a crystalline material. Recrystallization from acetone-hexane provides {[7-chloro-3-(2-fluorophenyl)benzo[b]thien-6-yl]oxy}acetic acid as needles, mp 163°-164° C.

reactant | ethyl{ [7-chloro-3-(2-fluorophenyl)benzo[b]thien-6-yl]oxy}acetate | 7.2 g | C(C)OC(COC=1C=CC2=C(SC=C2C2=C(C=CC=C2)F)C1Cl)=O | C18H14ClFO3S
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | {[7-chloro-3-(2-fluorophenyl)benzo[b]thien-6-yl]oxy}acetic acid | ClC1=C(C=CC2=C1SC=C2C2=C(C=CC=C2)F)OCC(=O)O | C16H10ClFO3S
